US05252599
Step 3: (1S,3S,5R) 6,8-Dioxabicyclo[3.2.1]octan-3-ol
The ditosylate derivative from Step 1 (107 g 0.228 mmoL) was dissolved in THF (1.6 L) at -40° C. and Super-Hydride in THF (800 mL, 1M, 0.8 mmoL) was slowly added. The resulting reaction mixture was stirred at r.t. overnight. The reaction was cannulated into cold H2O (226 mL) using external cooling, then NaOH 3N (640 mL, 1.92 mmol) and H2O2 (30%) (490 mL, 4.3 mmol) were successively added. The reaction was stirred at r.t. for 1 hr. Then the supernatant (THF layer) was separated from the aqueous layer and concentrated. The resulting residue was combined with the aqueous layer and extracted with CH2Cl2 using a continuous extractor. The organic layer was dried (MgSO4) and evaporated to dryness. The oily residue was dissolved in hot Et2O, filtered and evaporated to dryness affording the title compound contaminated with the 2-octanol isomer. The crude product was used as such for the next step.

reactant | Super-Hydride | [Li+].[B-](CC)(CC)CC
reactant | H2O | 226 mL | O | H2O
reactant | NaOH | 1.92 mmol, 3N, 640 mL | [OH-].[Na+]
reactant | H2O2 | 4.3 mmol, 490 mL | OO | H2O2
reactant | THF | 1.6 L | C1CCOC1 | C4H8O
reactant | THF | 1M, 800 mL | C1CCOC1 | C4H8O
product | (1S,3S,5R) 6,8-Dioxabicyclo[3.2.1]octan-3-ol | [C@H]12C[C@@H](C[C@H](OC1)O2)O | C6H10O3
